US08134013B2
6-(2-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazinecarbothioamido)-2,3-dihydrobenzo[1,4]dioxine
2-(3,4-Dichlorophenyl)-4-(1-hydrazonoethyl)-thiophen-3-ol (25 mg, 0.08 mmol) prepared in Reference Synthetic Example 13 in dimethylformamide (0.25 mL) was stirred with 6-isothiocyanato-2,3-dihydrobenzo[1,4]dioxine (24 mg, 0.13 mmol, at 30° C. for 4 hours. Methanol and water were added to the reaction solution, and the resulting crystals were collected by filtration, washed and dried to give 28 mg of the desired product (yield 65%).

reactant | 2-(3,4-Dichlorophenyl)-4-(1-hydrazonoethyl)-thiophen-3-ol | 0.08 mmol, 25 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(C)=NN | C12H10Cl2N2OS
reactant | 6-isothiocyanato-2,3-dihydrobenzo[1,4]dioxine | N(=C=S)C1=CC2=C(OCCO2)C=C1 | C9H7NO2S
reactant | Methanol | CO | CH4O
reactant | water | O | H2O
solvent | dimethylformamide | 0.25 mL | CN(C=O)C | C3H7NO
product | 6-(2-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazinecarbothioamido)-2,3-dihydrobenzo[1,4]dioxine | 28 mg, yield 65% | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(NC1=CC2=C(OCCO2)C=C1)=S)O | C21H17Cl2N3O3S2
